US04182718
(b) Preparation of Dimethyl 1,3-Dioxolane-2,4-Dicarboxylate
Methyl glyoxylate 11.3 g (0.128 mol) and methyl 2-bromo-3-hydroxypropionate 31 g (0.129 mol) were mixed and the mildly exothermic reaction allowed to cool. The mixture was then treated with hexane (50 ml) and 17.8 g (0.129 mol) potassium carbonate. Evolution of CO2 was sluggish; the mixture was warmed to 45° and allowed to stir overnight. The work-up as described in Example 1 yielded after ether removal, 13.0 g of a light yellow liquid. Distillation in vacuo gave 5.2 g (21%) of the title compound bp 84°-86° at 0.3 mm Hg as a clear colorless liquid. Analysis by GlPC indicated >96% purity, and the pmr spectrum indicated a mixture of trans & cis isomers approximately 70-80% trans.

reactant | Methyl glyoxylate | 0.128 mol, 11.3 g | C(C=O)(=O)OC | C3H4O3
reactant | methyl 2-bromo-3-hydroxypropionate | 0.129 mol, 31 g | BrC(C(=O)OC)CO | C4H7BrO3
reactant | potassium carbonate | 0.129 mol, 17.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | CO2 | C(=O)=O | CO2
solvent | hexane | 50 ml | CCCCCC | C6H14
product | Dimethyl 1,3-Dioxolane-2,4-Dicarboxylate | 5.2 g, 21% | O1C(OC(C1)C(=O)OC)C(=O)OC | C7H10O6
